US06180622B2
Acetic acid (0.132 ml) and 0.77 ml of a 1 M tetra-n-butylammonium fluoride/THF solution are added to a solution of 114 mg of allyl(1R,5S,6S)-2-[(3S,5S)-1-allyloxycarbonyl-5-[N-(imidazo[5,1-b]thiazol-5-yl)methyl-N-methylaminocarbonyl]pyrrolidin-3-yl]thio-6-[(1R)-1-(t-butyldimethylsilyloxy)ethyl)-1-methyl-carbapen-2-em-3-carboxylate in 2.3 ml of anhydrous THF, and the mixture is stirred in an argon atmosphere at room temperature for 22.5 hr. 1/15 M phosphate buffer (pH 7.0) (3 ml) is added thereto, and the mixture is extracted twice with 15 ml of ethyl acetate. The combined organic layers are dried over anhydrous magnesium sulfate and filtered, and the solvent is removed under reduced pressure and by filtrate to give a yellowish orange oil. This oil is purified by column chromatography on silica gel (ethyl acetate:methanol=9:1) to give 78.3 mg of allyl(1R,5S,6S)-2-[(3S,5S)-1-allyloxycarbonyl-5-[N-(imidazo[5,1-b]thiazol-5-yl)methyl-N-methylaminocarbonyl]pyrrolidin-3-yl]thio-6-((1R)-1-hydroxyethyl)-1-methylcarbapen-2-em-3-carboxylate as a colorless solid.

reactant | Acetic acid | 0.132 ml | C(C)(=O)O | C2H4O2
reactant | tetra-n-butylammonium fluoride THF | 1 M | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC.C1CCOC1
reactant | allyl(1R,5S,6S)-2-[(3S,5S)-1-allyloxycarbonyl-5-[N-(imidazo[5,1-b]thiazol-5-yl)methyl-N-methylaminocarbonyl]pyrrolidin-3-yl]thio-6-[(1R)-1-(t-butyldimethylsilyloxy)ethyl)-1-methyl-carbapen-2-em-3-carboxylate | 114 mg | C(C=C)OC(=O)N1C[C@H](C[C@H]1C(=O)N(C)CC1=NC=C2SC=CN21)SC=2[C@@H]([C@H]1N(C2C(=O)OCC=C)C([C@@H]1[C@@H](C)O[Si](C)(C)C(C)(C)C)=O)C | C35H49N5O7S2Si
reactant | phosphate | 15 M, 3 ml, pH 7.0 | P(=O)([O-])([O-])[O-]
solvent | THF | 2.3 ml | C1CCOC1 | C4H8O
product | allyl(1R,5S,6S)-2-[(3S,5S)-1-allyloxycarbonyl-5-[N-(imidazo[5,1-b]thiazol-5-yl)methyl-N-methylaminocarbonyl]pyrrolidin-3-yl]thio-6-((1R)-1-hydroxyethyl)-1-methylcarbapen-2-em-3-carboxylate | 78.3 mg | C(C=C)OC(=O)N1C[C@H](C[C@H]1C(=O)N(C)CC1=NC=C2SC=CN21)SC=2[C@@H]([C@H]1N(C2C(=O)OCC=C)C([C@@H]1[C@@H](C)O)=O)C | C29H35N5O7S2
